US08629137B2
5-(6-chloro-pyrimidine-4-carbonyl)-1,3-dihydro-indol-2-one
3.93 g (22.2 mmol) 6-chloropyrimidine-4-carboxylic acid chloride, 2.96 g (22.2 mmol) 2-oxoindole and 14.8 g (111 mmol) aluminium trichloride were combined and heated for 3 h to 130° C. Then the mixture was mixed with ice water and extracted twice with EtOAc. The organic phases were combined, dried and evaporated down. The residue was triturated in DIPE, suction filtered, washed and dried.

reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 22.2 mmol, 3.93 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | 2-oxoindole | 22.2 mmol, 2.96 g | O=C1N=C2C=CC=CC2=C1 | C8H5NO
reactant | aluminium trichloride | 111 mmol, 14.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 5-(6-chloro-pyrimidine-4-carbonyl)-1,3-dihydro-indol-2-one | ClC1=CC(=NC=N1)C(=O)C=1C=C2CC(NC2=CC1)=O | C13H8ClN3O2
